US07495103B2
To a solution of 2-tert-butyl-4-bromo-5-nitrophenol (C-14-a) (12 g, 43.8 mmol) in MeOH (90 mL) was added Ni (2.4 g). The reaction mixture was stirred under H2 (1 atm) for 4 h. The mixture was filtered and the filtrate was concentrated. The crude product was recrystallized from ethyl acetate and petroleum ether to give 2-tert-butyl-4-bromo-5-amino-phenol (C-27) (7.2 g, 70%). 1H NMR (DMSO-d6) δ 9.15 (s, 1H), 6.91 (s, 1H), 6.24 (s, 1H), 4.90 (br s, 2H), 1.22 (s, 9H); ESI-MS 244.0 m/z (MH+).

reactant | 2-tert-butyl-4-bromo-5-nitrophenol | 43.8 mmol, 12 g | C(C)(C)(C)C1=C(C=C(C(=C1)Br)[N+](=O)[O-])O | C10H12BrNO3
solvent | MeOH | 90 mL | CO | CH4O
catalyst | Ni | 2.4 g | [Ni] | Ni
product | 2-tert-butyl-4-bromo-5-amino-phenol | 7.2 g, 70% | C(C)(C)(C)C1=C(C=C(C(=C1)Br)N)O | C10H14BrNO
